US06500985B2
Process for producing (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone
Di-tert-butyl dicarbonate (85.8 mg) and triethylamine (29.1 mg) were dissolved in methylene chloride (2.6 ml), and an aqueous solution of (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride (61.4 mg) in water (2.6 ml) was added thereto dropwise. The mixture was stirred at room temperature for 1 hour, then heated at 40° C., and further reacted for 1.5 hours. After the reaction solution was cooled to room temperature, a sodium chloride aqueous solution was added thereto, and the mixture was extracted twice with ethyl acetate. The resulting ethyl acetate layer was analyzed by HPLC, and it was identified that (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone (66.3 mg) was obtained in a yield of 85%.

reactant | Di-tert-butyl dicarbonate | 85.8 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 29.1 mg | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride | 61.4 mg | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | 2.6 ml | C(Cl)Cl | CH2Cl2
solvent | water | 2.6 ml | O | H2O
product | (3S)-3-tert-butoxycarbonylamino-1-chloro-4-phenyl-2-butanone | yield of 85% | C(C)(C)(C)OC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C15H20ClNO3
